US08685975B2
To an oven-dried pressure tube was added 5-(4-bromo-3,5-dimethoxyphenyl)-4-tosyl-4,5-dihydrooxazole (0.4 g, 0.91 mmol), methylamine-THF solution (1.8 mL of a 2.0 M solution, 3.6 mmol), and xylenes (5 mL). The tube was sealed under argon then heated at 135° C. for 15 hours. After cooling to room temperature, the reaction mixture was transferred and concentrated in vacuo then partitioned between EtOAc and H2O. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organics were washed with brine twice, dried over Na2SO4 and concentrated. Purification by chromatography (50-100% EtOAc-hexanes then 2-5% MeOH-EtOAc) provided 4-(4-bromo-3,5-dimethoxyphenyl)-1-methyl-1H-imidazole as a light yellow solid (0.056 g, 21% yield).

reactant | 5-(4-bromo-3,5-dimethoxyphenyl)-4-tosyl-4,5-dihydrooxazole | 0.91 mmol, 0.4 g | BrC1=C(C=C(C=C1OC)C1C(N=CO1)S(=O)(=O)C1=CC=C(C)C=C1)OC | C18H18BrNO5S
reactant | methylamine THF | CN.C1CCOC1
solvent | MeOH EtOAc | CO.CCOC(=O)C
product | 4-(4-bromo-3,5-dimethoxyphenyl)-1-methyl-1H-imidazole | 0.056 g, 21% yield | BrC1=C(C=C(C=C1OC)C=1N=CN(C1)C)OC | C12H13BrN2O2
